US04727073
A mixture of 5-(1-bromoethyl)-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine (1.5 g) and N-methylpiperazine (1.13 g) in isopropylalcohol (15 ml) was refluxed for 1.5 hours. The reaction mixture was evaporated in vacuo. The residue was chromatographed on allumina eluting with a mixture of ethyl acetate and n-hexane (1:20). The fractions containing the desired product were combined and concentrated in vacuo. The residue was crystallized from a mixture of n-hexane and diethyl ether to give 6-methyl-5-[1-(4-methylpiperazin-1-yl)ethyl]-4-(3-nitrophenyl)-2-phenylpyrimidine (0.51 g).

reactant | 5-(1-bromoethyl)-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine | 1.5 g | BrC(C)C=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C19H16BrN3O2
reactant | N-methylpiperazine | 1.13 g | CN1CCNCC1 | C5H12N2
solvent | isopropylalcohol | 15 ml | C(C)(C)O | C3H8O
product | 6-methyl-5-[1-(4-methylpiperazin-1-yl)ethyl]-4-(3-nitrophenyl)-2-phenylpyrimidine | 0.51 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(C)N1CCN(CC1)C | C24H27N5O2
